US08138181B2
Step 1C: Preparation of 6-fluoro-8-(triisopropylsilyloxy)quinoline-2-carbaldehyde:
6-Fluoro-2-methyl-8-(triisopropylsilyloxy)quinoline (1.76 g, 5.29 mmol) was dissolved in dioxane (58 mL) and water (0.49 mL). The reaction was treated with selenium dioxide (0.76 g, 6.8 mmol) and the mixture was heated to reflux for 13 hours. The mixture was cooled and filtered through GF/F paper. The filtered solids were washed with Et2O then all the filtrates were concentrated in vacuo. The crude mixture was chromatographed on silica gel, eluting with a gradient of 1-5% Et2O/hexanes, (0.515 g). 1H NMR (400 MHz, CDCl3) δ 10.19 (s, 1H), 8.18 (d, J =8.7 Hz, 1H), 8.01 (d, J=8.4 Hz, 1H), 7.14-7.08 (m, 1H), 7.06-7.00 (m, 1H), 1.52-1.41 (m, 3H), 1.16 (d, 18H).

reactant | 6-Fluoro-2-methyl-8-(triisopropylsilyloxy)quinoline | 5.29 mmol, 1.76 g | FC=1C=C2C=CC(=NC2=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)C | C19H28FNOSi
reactant | selenium dioxide | 6.8 mmol, 0.76 g | [Se](=O)=O | O2Se
solvent | dioxane | 58 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.49 mL | O | H2O
product | 6-fluoro-8-(triisopropylsilyloxy)quinoline-2-carbaldehyde | FC=1C=C2C=CC(=NC2=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)C=O | C19H26FNO2Si
